US08541575B2
{4-[3-(3-Amino-2,6-difluoro-phenyl)-1H-pyrazol-4-yl]-pyridin-2-yl}-methyl-amine
To a solution of {4-[3-(3-dibenzylamino-2,6-difluoro-phenyl)-1H-pyrazol-4-yl]-pyridin-2-yl}-methyl-amine (408 mg, 0.849 mmol) in toluene (4.30 mL) trifluoro-methanesulfonic acid (4.30 mL) was added and the mixture was irradiated in the microwave oven at 120° C. for 30 minutes. The reaction was then poured into water and extracted with ethyl acetate. The organic layer was washed with saturated aqueous NaHCO3 and brine, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure and purified by silica gel column chromatography eluting with 5% methanol in methylene chloride (60% over 4 steps).

reactant | {4-[3-(3-dibenzylamino-2,6-difluoro-phenyl)-1H-pyrazol-4-yl]-pyridin-2-yl}-methyl-amine | 0.849 mmol, 408 mg | C(C1=CC=CC=C1)N(C=1C(=C(C(=CC1)F)C1=NNC=C1C1=CC(=NC=C1)NC)F)CC1=CC=CC=C1 | C29H25F2N5
reactant | water | O | H2O
solvent | toluene | 4.30 mL | C1(=CC=CC=C1)C | C7H8
product | {4-[3-(3-Amino-2,6-difluoro-phenyl)-1H-pyrazol-4-yl]-pyridin-2-yl}-methyl-amine | NC=1C(=C(C(=CC1)F)C1=NNC=C1C1=CC(=NC=C1)NC)F | C15H13F2N5
